US06972287B1
Preparation of 2-{4-[2-(3,4-Dimethyl-phenyl)-ethyl]phenylamino}-5-nitrobenzoic acid methyl ester
The title compound was prepared from 4-[2-(3,4-dimethylphenyl)ethyl]-benzenamine (1.0 g, 4.43 mmol), 2-bromo-5-nitrobenzoic acid methyl ester (0.96 g, 3.69 mmol), cesium carbonate (1.68 g, 5.17 mmol), tris(dibenzylideneacetone-dipaladium(0) (101 mg, 0.11 mmol) and (S)-(2,2′-bis(di-p-tolylphosphino-1,1′-binaphthyl (98%, (S)-tol-BINAP) (113 mg, 0.17 mmol) (Ligand/Pd=1.5) in anhydrous toluene (32 mL) using the procedure described in Example 2, step C. This procedure yielded an yellow solid, 1.31 g (3.24 mmol, 73%) of the desired product. mp 115-117° C.

reactant | 4-[2-(3,4-dimethylphenyl)ethyl]-benzenamine | 4.43 mmol, 1.0 g | CC=1C=C(C=CC1C)CCC1=CC=C(C=C1)N | C16H19N
reactant | 2-bromo-5-nitrobenzoic acid methyl ester | 3.69 mmol, 0.96 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])Br)=O | C8H6BrNO4
reactant | cesium carbonate | 5.17 mmol, 1.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 32 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd | [Pd] | Pd
catalyst | di-p-tolylphosphino-1,1′-binaphthyl | 0.17 mmol, 113 mg | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C | C34H27P
product | 2-{4-[2-(3,4-Dimethyl-phenyl)-ethyl]phenylamino}-5-nitrobenzoic acid methyl ester | 3.24 mmol, 1.31 g, 73% | COC(C1=C(C=CC(=C1)[N+](=O)[O-])NC1=CC=C(C=C1)CCC1=CC(=C(C=C1)C)C)=O | C24H24N2O4
